US07169797B2
3-(3-iodophenyl)-1-propanol
To an ice cooled solution of 3-(3-iodophenyl)propionic acid (8.0 g, 29.7 mmol) in THF (30 mL) was added 1.0 M BH3 in THF (40 mL, 40 mmol). The mixture was stirred at 0° C. for 1 hour, then quenched by careful addition of 1:1 THF:H2O (10 mL). The mixture was concentrated in vacuo, the residue taken up in diethyl ether (100 mL), washed with water (1×100 mL, 1×50 mL), and brine (1×25 mL), dried over MgSO4, filtered, and concentrated to an oil. The oil was purified via silica gel chromatography, eluting with 40% ethyl acetate in hexanes to provide the titled compound (6.3 g, 81%). 1H NMR (300 MHz, d6-DMSO) δ 7.58 (d, 1H, J=1.4 Hz), 7.53 (ddd, 1H J=1.0, 1.7, 6.1 Hz), 7.22 (dd, 1H, J=1.7, 6.4 Hz), 7.08 (t, 1H, J=7.6 Hz), 4.47 (t, 1H, J=5.1 Hz), 3.38 (dt, 2H, J=5.1, 6.3 Hz), 2.57 (t, 2H, J=7.8 Hz), 1.68 (m, 2H); MS (ESI) m/z 279 (M+NH4).

reactant | 3-(3-iodophenyl)propionic acid | 29.7 mmol, 8.0 g | IC=1C=C(C=CC1)CCC(=O)O | C9H9IO2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mmol, 40 mL | C1CCOC1 | C4H8O
product | 3-(3-iodophenyl)-1-propanol | 6.3 g, 81% | IC=1C=C(C=CC1)CCCO | C9H11IO
